datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C(/[C:10](=[C:11](\[O-:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:82])C=C1.C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([C:10](C2=CC=CC=C2)([C:11](=[O:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:82])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C[N:65](C)[C:64]1=[CH:63][CH:62]=[N+:61]([CH-:10][C:71](C2=CC=CC=C2)=[O:72])[CH:72]=[CH:73]1.O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[N:65](C)[C:64]1=[CH:63][CH:62]=[N+:61]([CH:10]([CH:20]([CH:21]=[CH:22][N:23]2C3=C(C=CC=C3)CC2C(=O)[O-])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:71](C2=CC=CC=C2)=[O:72])[CH:72]=[CH:73]1 10=20;20,21=21,22;22,23=23"
"C[C:11](=[CH2:10])[O:12][Si:63](C)(C)C.N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>C[C:11]([CH2:10][CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33](C#N)[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[O:62][CH:11]([H:10])[O:12]1.C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C1C[O:62][CH:11]=[O+:12]1.C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28.CC[O:72][C:61](/[C:10](C)=[C:11](/C)[O-:12])=[O:62]>>CC[O:72][C:61]([C:10](C)([C:11](C)=[O:12])[CH:20]([C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28)[C:41]12C3C4C5C1[Fe:42]45321678C2C1C6C7C28)=[O:62] 10,11=10,20;12=11,12"
"O=[N+]([O-])[C:43]1=[CH:42][C:21]([N+:22](=[O:23])[O-:33])=[CH:20][S:44]1.[NH2:10][OH:61]>>O=[N+]([O-])[C:43]1=[CH:42][C:21](=[N+:22]([O-:23])[O-:33])[CH:20]([NH2+:10][OH:61])[S:44]1 10=20;20,21=21,22;22,23=23"
C1=NC=N[C:61]2=[C:62]1[N:72]=[CH:71][N-:10]2.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[C:61]3=[C:62](C=NC=N3)[N:72]=[CH:71]2)([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC1=CC=C([B-:11](C2=CC=C(C)O2)(C2=CC=C(C)O2)[C:10]2=CC=C(C)O2)O1.C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC1=CC=C([B:11](C2=CC=C(C)O2)C2=CC=C(C)O2)O1.CC1=CC=[C:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)O1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CO[C:63]1=[C:62]([N:61]2[C-:10]=[N+:71](C)[CH:73]=[CH:72]2)[C:67](OC)=[CH:66][CH:65]=[CH:64]1>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CO[C:63]1=[C:62]([N:61]2[C:10]([F:20])=[N+:71](C)[CH:73]=[CH:72]2)[C:67](OC)=[CH:66][CH:65]=[CH:64]1 10=20;20,21=21"
"C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.FC(F)(F)[S:81](/[CH:10]=[C:11]1\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:76])[CH:63]=[CH:62]1)(=[O:82])=[O:92]>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:76])[CH:63]=[CH:62]2)[S:81](C(F)(F)F)(=[O:82])=[O:92])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"CC[Ge:63](CC)(CC)[CH2:62][CH2:11][H:10].C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=CC=CC=C21>>CC[Ge:63](CC)(CC)[CH2:62][CH2+:11].C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23"
"C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28.C[O:12][C:11]1=[CH:10][S:61][CH:62]=[CH:63]1>>C[O+:12]=[C:11]1[CH:10]([CH:20]([C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[S:61][CH:62]=[CH:63]1 10,11=10,20;12=11,12"
"CCCC[Si:11](CCCC)(CCCC)[H:10].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1>>CCCC[Si+:11](CCCC)CCCC.CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1 10,11=10,20;20,21=21,22;22,23=23"
